US06635638B2
(4-(2-(1-Pyrrolidinyl)ethoxv)phenyl) Boronic Acid
To a solution of 1-[2-(4-bromophenoxy)ethyl]-pyrrolidine (2.70 g, 10 mmol) in THF (40 mL) was added n-butyl lithium (6.9 mL 1.6 M in hexanes, 11 mmol) at −78° C. The reaction mixture was stirred at −78° C. for 15 min and then at 0° C. for 15 min. Trimethyl borate (2.5 mL, 22 mmol) was then added to the reaction mixture at 0° C. The mixture was gradually warmed to room temperature overnight. Methyl borate in the reaction mixture was hydrolyzed by reacting with saturated NH4Cl aqueous solution (100 mL) at room temperature for 30 min. The upper organic layer was collected. The aqueous layer was extracted with CHCl3 (2×100 mL). The organic layers were combined, washed with brine (2×100 mL) and dried with MgSO4. The solvent was evaporated, resulting in a dense oil which was purified by column chromatograph (10% MeOH/CHCl3 and 1% Et3N) to yield the product as a white solid.

reactant | 1-[2-(4-bromophenoxy)ethyl]-pyrrolidine | 10 mmol, 2.70 g | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | n-butyl lithium | 11 mmol, 1.6 M, 6.9 mL | C(CCC)[Li]
reactant | Trimethyl borate | 22 mmol, 2.5 mL | B(OC)(OC)OC | C3H9BO3
reactant | Methyl borate | B(OC)([O-])[O-]
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (4-(2-(1-Pyrrolidinyl)ethoxv)phenyl) Boronic Acid | N1(CCCC1)CCOC1=CC=C(C=C1)B(O)O | C12H18BNO3
